US07049342B2
2-Ethyl 3-[3-[4-(trifluoromethyl)benzylamino-methyl]-4-methoxyphenyl]propanoic acid hydrochloride
A mixture of ethyl 2-ethyl-3-[3-[4-(trifluoromethyl)benzylaminomethyl]-4-methoxyphenyl]propanoate (90.2 mg, 0.213 mmol), methanol (2 mL) and 2.5 mol/L aqueous solution of sodium hydroxide (2 mL) was stirred for 5 hours under heating at 60° C. After cooling, ice water (20 mL) was added and the mixture was made acidic with 1 mol/L hydrochloric acid, which was then saturated with sodium chloride and extracted with ethyl acetate. The extracte was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (eluent: dichloromethane:methanol=10:1 v/v) to afford 78.0 mg (85%) of the title compound as a brown oil.

reactant | ethyl 2-ethyl-3-[3-[4-(trifluoromethyl)benzylaminomethyl]-4-methoxyphenyl]propanoate | 0.213 mmol, 90.2 mg | C(C)C(C(=O)OCC)CC1=CC(=C(C=C1)OC)CNCC1=CC=C(C=C1)C(F)(F)F | C23H28F3NO3
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 2-Ethyl 3-[3-[4-(trifluoromethyl)benzylamino-methyl]-4-methoxyphenyl]propanoic acid hydrochloride | 78.0 mg, 85% | Cl.C(C)C(C(=O)O)CC1=CC(=C(C=C1)OC)CNCC1=CC=C(C=C1)C(F)(F)F | InChI=1S/C21H24F3NO3.ClH/c1-3-16(20(26)27)10-15-6-9-19(28-2)17(11-15)13-25-12-14-4-7-18(8-5-14)21(22,23)24;/h4-9,11,16,25H,3,10,12-13H2,1-2H3,(H,26,27);1H
